US08802673B2
(R)-tert-Butyl 2-(4-amino-2-fluorophenyl)morpholine-4-carboxylate (300 mg), 2-chloro-5-cyclopropylpyrimidine (188 mg, CAS 166740-44-9) and cesium carbonate (495 mg) were combined with dioxane (8 ml) to give a yellow suspension. The mixture was degassed by bubbling argon into the mixture for several minutes. Xantphos (35.1 mg) and tris(dibenzylideneacetone)dipalladium chloroform complex (31.4 mg) were then added. The reaction mixture was then capped and stirred at 120° C. for 3 hours. The crude reaction mixture was cooled to room temperature and filtered. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography (silica gel; gradient: 0% to 55% EtOAc in hexanes) to afford (R)-tert-butyl 2-(4-(5-cyclopropylpyrimidin-2-ylamino)-2-fluorophenyl)morpholine-4-carboxylate (180 mg, 43%) as a yellow solid. MS (ISP): 415.2 ([M+H]+).

reactant | (R)-tert-Butyl 2-(4-amino-2-fluorophenyl)morpholine-4-carboxylate | 300 mg | NC1=CC(=C(C=C1)[C@@H]1CN(CCO1)C(=O)OC(C)(C)C)F | C15H21FN2O3
reactant | 2-chloro-5-cyclopropylpyrimidine | 188 mg | ClC1=NC=C(C=N1)C1CC1 | C7H7ClN2
reactant | cesium carbonate | 495 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | (R)-tert-butyl 2-(4-(5-cyclopropylpyrimidin-2-ylamino)-2-fluorophenyl)morpholine-4-carboxylate | 180 mg, 43% | C1(CC1)C=1C=NC(=NC1)NC1=CC(=C(C=C1)[C@@H]1CN(CCO1)C(=O)OC(C)(C)C)F | C22H27FN4O3
